US06353006B1
To a suspension of (D)-serine methyl ester HCl salt (2.13 g, 13.7 mmol) in 1,2-dichloroethane was added isobutyraldehyde (1.5 mL, 16.4 mmol) and sodium triacetoxyborohydride (4.3 g, 20.5 mmol). The reaction mixture was stirred at room temp. for 24 h, then partitioned between Et2O (100 mL) and a saturated NaHCO3 solution (100 mL). The organic layer was washed with a saturated NaHCO3 solution (3×100 mL), dried (MgSO4), and treated with a 1M HCl solution in ether (25 mL). The resulting mixture was concentrated under reduced pressure to yield (R)-N-isobutylserine methyl ester HCl salt (2.27 g, 79%): NMR (DMSO-d6) δ0.94 (dd, J=6.7, 3.0 Hz, 6H); 1.97-2.11 (m, 1H); 2.76-2.91(m, 1H); 3.76 (s, 3H); 3.86 (dd, J=12.1, 4.1 Hz, 1H), 3.99 (dd, J=12.4, 3.2 Hz, 1H), 4.13-4.21 (m, 1H).

reactant | (D)-serine methyl ester HCl salt | 13.7 mmol, 2.13 g | Cl.COC([C@H](N)CO)=O
reactant | isobutyraldehyde | 16.4 mmol, 1.5 mL | C(C(C)C)=O | C4H8O
reactant | sodium triacetoxyborohydride | 20.5 mmol, 4.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (R)-N-isobutylserine methyl ester HCl salt | 2.27 g, 79% | Cl.COC([C@H](NCC(C)C)CO)=O | InChI=1S/C8H17NO3.ClH/c1-6(2)4-9-7(5-10)8(11)12-3;/h6-7,9-10H,4-5H2,1-3H3;1H/t7-;/m1./s1
